US08084448B2
B. 4-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-butyronitrile
To a solution of 4-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-butyronitrile (45.7 mg, 0.094 mmol) in THF (4 mL) is added 0.188 mL of a 1M solution of TBAF in THF. The mixture is stirred at 65° C. for 1 h then is allowed to cool to RT. The mixture is poured into 1N HCl and extracted with EtOAc. The organic phase is washed with brine and dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue is purified by reverse phase Biotage using a gradient of 0-30% EtOH/water as eluent to furnish the title compound.

reactant | 4-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-butyronitrile | 0.094 mmol, 45.7 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCCC#N | C24H31N3O4SSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-butyronitrile | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCCC#N | C19H19N3O4S
